US04814342
C. N-(Morpholinocarbonyl)-L-phenylalanine-L-norvaline
To a solution of 0.62 g N-(Morpholinocarbonyl)-L-phenylalanine-L-norvaline methyl ester in 40 mL methanol and 20 mL water was added 1.2 g potassium carbonate. The resulting mixture was stirred at ambient temperature for 60 h, afterwhich it was concentrated in vacuo to an aqueous solution and washed (3×50 mL) ether. The aqueous phase was acidified with 10 mL 4N hydrochloric acid solution and was extracted (3×25 mL) with methylene chloride. The combined extracts were dried over magnesium sulfate, filtered and concentrated to afford 0.46 g crude acid.

reactant | N-(Morpholinocarbonyl)-L-phenylalanine L-norvaline methyl ester | 0.62 g | O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC([C@@H](N)CCC)=O
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | N-(Morpholinocarbonyl)-L-phenylalanine L-norvaline | 0.46 g | O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.N[C@@H](CCC)C(=O)O | InChI=1S/C14H18N2O4.C5H11NO2/c17-13(18)12(10-11-4-2-1-3-5-11)15-14(19)16-6-8-20-9-7-16;1-2-3-4(6)5(7)8/h1-5,12H,6-10H2,(H,15,19)(H,17,18);4H,2-3,6H2,1H3,(H,7,8)/t12-;4-/m00/s1
